US08470843B2
Step B: (5SR,6RS)-6-Hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one
The title compound was prepared in analogy to example 2 step A from a mixture of (5 SR,6RS)-8-benzyl-6-hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one and Pearlman's catalyst under an atmosphere of hydrogen. Light brown solid. MS (ESI): 359.1 (MH+)

reactant | (5 SR,6RS)-8-benzyl-6-hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one | C(C1=CC=CC=C1)N1CC(C2(CCN(C2=O)C2=CC=C(C=C2)OC(C(F)(F)F)C)CC1)O | C24H27F3N2O3
catalyst | Pearlman's catalyst | [OH-].[OH-].[Pd+2]
product | (5SR,6RS)-6-Hydroxy-2-[4-((rac)-2,2,2-trifluoro-1-methyl-ethoxy)-phenyl]-2,8-diaza-spiro[4.5]decan-1-one | OC1C2(CCN(C2=O)C2=CC=C(C=C2)OC(C(F)(F)F)C)CCNC1 | C17H21F3N2O3
